US07678801B2
79b) 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide
A solution of 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide (1.65 g, 3.16 mmol) in DCM (53 mL) was mixed with mCPBA (0.736 g, 4.75 mmol). The mixture was stirred at room temperature for about 10 minutes before directly loaded onto a column. Flash chromatography (mobile phase EtOAc/Hexane) then provided the title compound as a white solid 1.38 g (81%). MS (ES) m/z 538 (M+H)+; 1H-NMR (MeOD) δ 2.35 (s, 3 H), 2.81 (s, 3 H), 6.98 (d, J=10.0 Hz, 1 H), 7.30 (d, J=3.6 Hz, 1 H), 7.46 (t, J=8.6 Hz, 2 H), 7.57 (d, J=3.6 Hz, 1 H), 7.66 (d, J=8.0 Hz, 1 H), 7.72 (m, 1 H), 7.85 (d, J=10.0 Hz, 1 H), 8.25 (d, J=8.0 Hz, 2 H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide | 3.16 mmol, 1.65 g | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)SC)=O | C25H17F2N5O2S2
reactant | mCPBA | 4.75 mmol, 0.736 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | DCM | 53 mL | C(Cl)Cl | CH2Cl2
product | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide | 1.38 g, 81% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)S(=O)C)=O | C25H17F2N5O3S2
